US07569687B2
Preparation of 2α,3α-epoxy-16β-(1-pyrrolidinyl)-5α-androstan-17β-ol, Compound IV
Analysis of rocuronium bromide, Compound I, was performed with a column & packing Hypersil silica; 5 μm, 250 mm×4.6 mm, Cat No. 30005-254630 or equivalent. Eluent A was tetramethylammonium hydroxide Buffer, 0.05M, pH 7.4, eluent B was acetonitrile, and the composition was 10:90, A:B. The stop time was 25 min., the flow rate was 2.0 mL/min., the detector was UV at 210 mn, the column temperature was 30° C., and the injection volume was 5 μl.

reactant | rocuronium bromide | CC(=O)O[C@H]1[C@H](C[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC[C@@H]4[C@@]3(C[C@@H]([C@H](C4)O)N5CCOCC5)C)C)[N+]6(CCCC6)CC=C.[Br-]
reactant | tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
solvent | acetonitrile | C(C)#N | C2H3N
product | 2α,3α-epoxy-16β-(1-pyrrolidinyl)-5α-androstan-17β-ol | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCCC2 | C23H37NO2
